US08044211B2
Cyclopentyl N-({4-[6-amino-5-(4-fluorobenzoyl)-2-oxopyridin-1(2H)-yl]phenoxy}acetyl)-L-leucinate
To a solution of 6-amino-5-(4-fluorobenzoyl)-1-(4-hydroxyphenyl)pyridin-2(1H)-one [WO 03/076405] (100 mg, 0.31 mmol) in anhydrous DMF (3 ml) under an atmosphere of nitrogen was added cyclopentyl N-(bromoacetyl)-L-leucinate (109 ml, 0.34 mmol, 1.1 eq) and potassium carbonate (51 mg, 0.37 mmol, 1.2 eq). The mixture was heated at 40 C for 16 hours, before being allowed to cool to room temperature and added to water (20 ml). The mixture was extracted with EtOAc (3×15 ml), and the combined extracts washed with water (2×40 ml) and brine (40 ml). The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. Purification by column chromatography (2-3% MeOH in DCM) followed by trituration with minimal MeOH afforded the title compound as a white solid (91 mg, 52% yield).

reactant | 6-amino-5-(4-fluorobenzoyl)-1-(4-hydroxyphenyl)pyridin-2(1H)-one | 0.31 mmol, 100 mg | NC1=C(C=CC(N1C1=CC=C(C=C1)O)=O)C(C1=CC=C(C=C1)F)=O | C18H13FN2O3
reactant | cyclopentyl N-(bromoacetyl)-L-leucinate | 0.34 mmol, 109 ml, 1.1 eq | BrCC(=O)N[C@@H](CC(C)C)C(=O)OC1CCCC1 | C13H22BrNO3
reactant | potassium carbonate | 0.37 mmol, 51 mg, 1.2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Cyclopentyl N-({4-[6-amino-5-(4-fluorobenzoyl)-2-oxopyridin-1(2H)-yl]phenoxy}acetyl)-L-leucinate | 91 mg, 52% yield | NC1=C(C=CC(N1C1=CC=C(OCC(=O)N[C@@H](CC(C)C)C(=O)OC2CCCC2)C=C1)=O)C(C1=CC=C(C=C1)F)=O | C31H34FN3O6
